US06824882B2
To a mixture of 15.22 g of 8-(nonafluorobutyl)-1-octanol and 200 mL of 48 weight percent hydrobromic acid was slowly added 20 mL of concentrated sulfuric acid. The reaction mixture was heated at 100° C. for 18 hr and poured into 800 mL of water. The mixture was extracted with 2×200 mL portions of hexanes, and the combined organic phases were washed with 2×200 mL portions of saturated aqueous sodium bicarbonate, 2 ×200 mL portions of 3 formal aqueous sodium thiosulfate, and one 100 mL portion of brine, and then dried over anhydrous magnesium sulfate. The solution was concentrated to a dark liquid, which was eluted through 2 inches (5 cm) of silica with 500 mL of hexanes. Concentration of the eluent yielded a clear, light yellow liquid, and bulb-to-bulb distillation gave 9.14 g of 1-bromo-8-(nonafluorobutyl)octane as a clear, light yellow liquid, b.p. 105-110° C. at 0.05 torr (7 Pa).

reactant | 8-(nonafluorobutyl)-1-octanol | 15.22 g | FC(C(C(CCCCCCCCO)(F)F)(F)F)(C(F)(F)F)F | C12H17F9O
reactant | hydrobromic acid | Br | BrH
reactant | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 800 mL | O | H2O
product | 1-bromo-8-(nonafluorobutyl)octane | 9.14 g | BrCCCCCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C12H16BrF9
